US04988814
N-2-(4-(2-Pyrimidinyl)-1-piperazinyl)ethyl-1-methylcyclohexylcarboxamide
The title compound was prepared from 2-(4-(2-pyrimidinyl)-1-piperazinyl)ethyl amine (1.50 g, 0.00724 mol), 1-methylcyclohexylcarboxylic acid chloride (1.16 g, 0.00722 mol) and triethylamine (1.1 mL, 0.80 g, 0.0079 mol) in the manner previously described to give 1.80 g (62%) of product, mp. 212°-220° C.

reactant | 2-(4-(2-pyrimidinyl)-1-piperazinyl)ethyl amine | 0.00724 mol, 1.50 g | N1=C(N=CC=C1)N1CCN(CC1)CCN | C10H17N5
reactant | 1-methylcyclohexylcarboxylic acid chloride | 0.00722 mol, 1.16 g | CC1(CCCCC1)C(=O)Cl | C8H13ClO
reactant | triethylamine | 0.0079 mol, 1.1 mL, 0.80 g | C(C)N(CC)CC | C6H15N
product | N-2-(4-(2-Pyrimidinyl)-1-piperazinyl)ethyl-1-methylcyclohexylcarboxamide | N1=C(N=CC=C1)N1CCN(CC1)CCNC(=O)C1(CCCCC1)C | C18H29N5O
